US07601702B2
Diphenyl(pyridin-3-yl)methanol (3)
A solution of 3-bromopyridine (10 g, 0.063 mol) in dry THF (200 mL)/hexane (50 mL) was cooled to −90° C. To this cooled solution was added n-BuLi (2.2 M, 32 mL, 0.063 mol) slowly and allowed to stir for 30 min under N2 atmosphere. A solution of benzophenone (11.5 g, 0.063 mol) in dry THF (50 mL) was added to this at the same temperature over a period of 30 min. The reaction mixture was warmed slowly to RT and allowed to stir another 3 h at RT. The reaction mixture was cooled, quenched with water (200 mL) and extracted with ethylacetate (2×100 mL). The organic layer was dried, concentrated under vacuum and crude purified by column chromatography over silica gel (30% ethyl acetate in petroleum ether) to give the title product (3.3 g).

reactant | 3-bromopyridine | 0.063 mol, 10 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | hexane | 50 mL | CCCCCC | C6H14
reactant | n-BuLi | 0.063 mol, 2.2 M, 32 mL | [Li]CCCC
reactant | benzophenone | 0.063 mol, 11.5 g | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | Diphenyl(pyridin-3-yl)methanol | 3.3 g | C1(=CC=CC=C1)C(O)(C=1C=NC=CC1)C1=CC=CC=C1 | C18H15NO
